US07247734B2
This compounds was synthesised in the same manner as described above. 3-(4-Bromo-phenyl)-6-ethyl-7-hydroxy-chromen-4-one (0.13 g, 0.38 mmol), hydrazine hydrate (4 ml), ethanol (10 ml). The crude solid product was columned to give 4-[4-(4-bromo-phenyl)-1H-pyrazol-3-yl]-6-ethyl-benzene-1,3-diol as a white solid (0.0969 g, 71%); Rf 0.44 Cf SM 0.79 ethyl acetate/hexane (75/25).

reactant | 3-(4-Bromo-phenyl)-6-ethyl-7-hydroxy-chromen-4-one | 0.38 mmol, 0.13 g | BrC1=CC=C(C=C1)C1=COC2=CC(=C(C=C2C1=O)CC)O | C17H13BrO3
reactant | hydrazine hydrate | 4 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[4-(4-bromo-phenyl)-1H-pyrazol-3-yl]-6-ethyl-benzene-1,3-diol | 0.0969 g, 71% | BrC1=CC=C(C=C1)C=1C(=NNC1)C1=C(C=C(C(=C1)CC)O)O | C17H15BrN2O2
